US07173058B2
To a solution of 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid (400 mg, 0.86 mmol) in tetrahydrofurane was added carbonyldiimidazole (160 mg, 1 mmol) at room temperature. The solution was stirred for 2 hours at room temperature. To the mixture was added morpholine (0.12 ml, 1.3 mmol). The resulted mixture was stirred at room temperature for 2 hours. Water (5 ml) was added to the reaction mixture. THF was removed in vacuo and the resulted mixture was taken up in ethyl acetate (20 ml). The organic layer was washed with saturated sodium bicarbonate solution (3×10 ml), water (10 ml), brine (10 ml) and was dried over magnesium sulfate. The solvent was removed in vacuo. The resulted oil was purified by HPLC (acetonitrile:water=45:55) to give N-{2-[1-(4-difluoromethoxy-3-ethoxy-phenyl)-3-morpholin-4-yl-3-oxo-propyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-acetamide as a white solid (200 mg, 44%): mp, 109–111° C.; 1HNMR (CDCl3): 1.44 (t, J=7.5 Hz, 3H, OCH2CH3), 2.26 (s, 3H, CH3CO), 3.02 (dd, J=5, 17.5 Hz, 1H, CHHCO), 3.49–3.68 (m, 8H, morpholine ring), 3.9 (dd, J=7.5, 17.5 Hz, 1H, CHHCO), 4.09 (q, J=7.5 Hz, 2H, OCH2CH3), 5.84 (dd, J=5, 10 Hz, 1H, CHN), 6.54 (t, JH-F=75 Hz, 1H, OCF2H), 7.11–7.16 (m, 3H, Ar), 7.45 (d, J=7.5 Hz, 1H, Ar), 7.63 (t, J=7.5 Hz, 1H, Ar), 8.75 (d, J=7.5 Hz, 1H, Ar), 9.50 (s, 1H, NHCO). 13C NMR (CDCl3): 15.3, 25.6, 35.1, 42.7, 46.6, 51.9, 65.5, 67.2, 67.5, 112.6, 114.4, 115.9, 116.7, 118.6, 120.8, 120.9, 123.5, 125.5, 131.9, 136.6, 138.2, 138.5, 140.6, 151.3, 168.6, 168.7, 169.9, 170.6; Anal. Calcd. for C26H27F2N3O7: C, 58.75; H, 5.12; N, 7.91. Found: C, 58.48; H, 5.09; N, 7.79.

reactant | 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid | 0.86 mmol, 400 mg | C(C)(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CC(=O)O)C1=CC(=C(C=C1)OC(F)F)OCC)=O | C22H20F2N2O7
reactant | carbonyldiimidazole | 1 mmol, 160 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | morpholine | 1.3 mmol, 0.12 ml | N1CCOCC1 | C4H9NO
reactant | Water | 5 ml | O | H2O
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | N-{2-[1-(4-difluoromethoxy-3-ethoxy-phenyl)-3-morpholin-4-yl-3-oxo-propyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-acetamide | 200 mg, 44% | FC(OC1=C(C=C(C=C1)C(CC(=O)N1CCOCC1)N1C(C2=CC=CC(=C2C1=O)NC(C)=O)=O)OCC)F | C26H27F2N3O7
